US08497265B2
Preparation P2.1: 2-(4-((3-Chloropyrazin-2-yl)Oxy)Piperidin-1-yl) Quinoline
To a solution of 1-(quinolin-2-yl)piperidin-4-ol (see PREPARATION P1.1; 2.0 g, 8.7 mmol) in DMF (30 mL) at room temperature was added sodium hydride (60% wt in mineral oil) (0.47 g, 17.4 mmol) at 0° C. The mixture was stirred at room temperature for 60 min and then 2,3-dichloro-pyrazine (1.2 g, 8.7 mmol) was added. The reaction mixture was heated to 90° C. overnight and then diluted with water (60 mL) and extracted with EtOAc (2×50 mL). The combined organic extracts were washed with water (40 mL) and brine (40 mL), dried over Na2SO4, and filtered. The filtrate was evaporated in vacuo and the residue was purified by flash column chromatography on silica gel (10% to 30% EtOAc in petroleum ether) to give the title product (2.0 g, 5.8 mmol, 70% yield) as white solid. ESI-MS (M+1): 341 calc. for C18H12ClN4O 340.

reactant | 1-(quinolin-2-yl)piperidin-4-ol | 8.7 mmol, 2.0 g | N1=C(C=CC2=CC=CC=C12)N1CCC(CC1)O | C14H16N2O
reactant | sodium hydride | 17.4 mmol, 0.47 g | [H-].[Na+]
reactant | 2,3-dichloro-pyrazine | 8.7 mmol, 1.2 g | ClC1=NC=CN=C1Cl | C4H2Cl2N2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | 60 mL | O | H2O
product | 2-(4-((3-Chloropyrazin-2-yl)Oxy)Piperidin-1-yl) Quinoline | 5.8 mmol, 2.0 g, 70% yield | ClC=1C(=NC=CN1)OC1CCN(CC1)C1=NC2=CC=CC=C2C=C1 | C18H17ClN4O
